US08609644B2
E,Z)-3-[(R)-2-Aminopropoxyimino]androstane-6-(E)-hydroxyiminoandrostane-17-one hydrochloride (I-em)
Prepared as described in Example 1 starting from 6-(E)-hydroxyiminoandrostane-3,17-dione (II-at, Prepn. 20, 500 mg) and (R)-2-aminopropoxyamine dihydrochloride (Prepn. 93, 257 mg). The crude product was crystallized from MeOH/EtOAc to give the title compound as a white solid (503 mg, 75%). 1H-NMR (300 MHz, DMSO-d6, ppm from TMS): δ 10.50 (1H, s), 7.98 (3H, m), 3.97 (2H, m), 3.40 (1H, m), 3.11 (0.5H, m), 3.05 (0.5H, m), 2.54-1.15 (22H, m), 0.79 (3H, s), 0.78 (3H, s).

reactant | 6-(E)-hydroxyiminoandrostane-3,17-dione | 500 mg | O\N=C\1/C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(CCC(CC12)=O)C)=O | C19H27NO3
reactant | (R)-2-aminopropoxyamine dihydrochloride | 257 mg | Cl.Cl.N[C@@H](CON)C
product | 3-[(R)-2-Aminopropoxyimino]androstane 6-(E)-hydroxyiminoandrostane-17-one hydrochloride | 503 mg, 75% | N[C@@H](CON=C1CC2CC[C@H]3[C@@H]4CCC[C@@]4(C)CC[C@@H]3[C@]2(CC1)C)C.Cl.O\N=C\1/C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(CCCCC12)C)=O | InChI=1S/C22H38N2O.C19H29NO2.ClH/c1-15(23)14-25-24-17-8-12-22(3)16(13-17)6-7-18-19-5-4-10-21(19,2)11-9-20(18)22;1-18-9-4-3-5-15(18)16(20-22)11-12-13-6-7-17(21)19(13,2)10-8-14(12)18;/h15-16,18-20H,4-14,23H2,1-3H3;12-15,22H,3-11H2,1-2H3;1H/b;20-16+;/t15-,16?,18+,19+,20+,21+,22+;12-,13-,14-,15?,18+,19-;/m10./s1
